US03939122
Using the method described in Example 8, 240 g of m-cresol are mixed with 50.4 g of 4,4'-diisocyanatodiphenyl ether followed by 70.6 g of 4,4'-bis-α-chloroacetamidodiphenylether at 120°C and the mixture is then reacted at 185°C for 14 hours. 346 g of an approximately 30% polyhydantoin solution which has a chlorine content below 0.2% and a viscosity of 12460 cP20°C are obtained. Precipitation of this solution in methanol yields 210 g of a polyhydantoin with a nitrogen content of 10.4% and a chlorine content below 0.2%. The hydantoin structure is in both cases confirmed by the IR absorption bands at 1700 and 1755 cm-1.

reactant | m-cresol | 240 g | C1=C(C=CC=C1O)C | C7H8O
reactant | 4,4'-diisocyanatodiphenyl ether | 50.4 g | C1=CC(=CC=C1N=C=O)OC2=CC=C(C=C2)N=C=O | C14H8N2O3
reactant | chlorine | ClCl | Cl2
product | cP20 | CC1=C(C(=O)C=CN1C)O | C7H9NO2
